US05051422
N-(3,5-Dichlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine
In a manner similar to Preparation 2, react N-(3,5-dichlorophenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide with lithium aluminum hydride to obtain the title compound.

reactant | N-(3,5-dichlorophenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide | ClC=1C=C(C=C(C1)Cl)NC(CNCC1=CC(=C(C=C1)OC)OC)=O | C17H18Cl2N2O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-(3,5-Dichlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine | ClC=1C=C(C=C(C1)Cl)NCCNCC1=CC(=C(C=C1)OC)OC | C17H20Cl2N2O2
